US09193723B2
5-bromo-4-chlorothiophene-2-carboxylic acid
Sodium hydroxide (50% in water) (5.82 ml, 110 mmol) was added to water (15 ml), and the mixture was chilled to 0° C. Bromine solution (1.669 ml, 32.6 mmol) was added, followed by dropwise addition of a solution of 1-(5-bromo-4-chlorothiophen-2-yl)ethanone (2.4 g, 10.02 mmol) in dioxane (18 ml). The mixture was stirred for 1.5 hours at room temperature, washed with dichloromethane, and then the aqueous phase was adjusted to pH 1 using 4N aqueous HCl. The precipitated solid was collected by filtration to give the title compound.

reactant | Sodium hydroxide | 110 mmol, 5.82 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | Bromine | 32.6 mmol, 1.669 ml | BrBr | Br2
reactant | 1-(5-bromo-4-chlorothiophen-2-yl)ethanone | 10.02 mmol, 2.4 g | BrC1=C(C=C(S1)C(C)=O)Cl | C6H4BrClOS
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-4-chlorothiophene-2-carboxylic acid | BrC1=C(C=C(S1)C(=O)O)Cl | C5H2BrClO2S
